### PR TITLE
feat(Analysis/ODE): peano existence theorem, application of Arzela Ascoli

### PR DESCRIPTION
**Pull request by philipp-svinger**
Apply Arzela Ascoli to show existence of converging subsequence

Add proof that Tonelli approximations have a converging subsequence using Arzela Ascoli.
Define adapter to BoundedContinuousFunctions to use existing results.

Co-authored-by: Florian Grube <fgrube@math.uni-bielefeld.de>
Co-authored-by: Paul Niessner <pniessner@math.uni-bielefeld.de>
Co-authored-by: Julian Rolfes <jrolfes@math.uni-bielefeld.de>
Co-authored-by: Luke Schleef <lschleef@math.uni-bielefeld.de>
Co-authored-by: Philipp Svinger <psvinger@math.uni-bielefeld.de>

---
We want to add the proof of the Peano existence theorem for ODEs, using Tonelli approximations.
This is the third PR in a series.
See our further PRs for more information, last #42148

---
The statements, definitions and proofs were written without AI.
AI was used afterwards to help us to adapt our code to the style and naming conventions.
We also used it in the process of writing a documentation.

- [ ] depends on: #42142
- [ ] depends on: #42143

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/ODE/Peano.lean [hunk 1]
```diff
@@ -0,0 +1,342 @@
...
+  | k + 1 =>
+      fun t ↦ x₀ + ∫ s in t₀..t,
+        f (s, tonelliIterate f t₀ x₀ n k (delayedInput t₀ n s))
+
+/-- Every recursively defined curve takes the value `x₀` at `t₀`. -/
+lemma tonelliIterate_apply_t₀ (f : ℝ × E → E) (t₀ : Icc tmin tmax) (x₀ : E) (n : ℕ) (k : ℕ) :
+    tonelliIterate f t₀ x₀ n k t₀ = x₀ := by
+  induction k with
+  | zero => simp [tonelliIterate]
+  | succ => simp [tonelliIterate]
```
Comment (YanYablonovskiy) [inline Mathlib/Analysis/ODE/Peano.lean:152]: Does this work?
```suggestion
  induction k <;> simp [tonelliIterate]
```

Comment (philipp-svinger) [reply Mathlib/Analysis/ODE/Peano.lean]: Yes, thank you for your comment.
